US08389524B2
A solution of (1S)-1-(hydroxymethyl)-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (1.909 g, 8.67 mmol) in DCM (100 ml) at 0° C. under argon was treated with triethylamine (1.450 ml, 10.40 mmol) and then methanesulfonyl chloride (0.743 ml, 9.54 mmol) and then allowed to warm to rt and stirred at rt for 1 h. The reaction mixture was then treated with saturated aqueous bicarbonate (100 ml) and the mixture was extracted with DCM (2×100 ml). The combined organic solvents were then dried (MgSO4), filtered and evaporated to give the crude intermediate [(2S)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl methanesulfonate. This was dissolved in dry acetonitrile (100 ml) and then treated with pyridine (1.402 ml, 17.34 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (3.47 g, 17.34 mmol) and heated at 70° C. for 20 h. After 20 h more 1,1-dimethylethyl 4-piperidinylcarbamate (3.47 g, 17.34 mmol) and pyridine (1.402 ml, 17.34 mmol) were added and the temperature was increased to reflux (heating block 95° C.) and reaction was stirred at this temperature for a further 4 h. The reaction mixture was then evaporated, saturated aqueous NaHCO3 (200 ml) was then added and the mixture was extracted with DCM (3×200 ml). The combined organic solvents were then dried (MgSO4), filtered and evaporated to give the crude product as a brown solid.

reactant | (1S)-1-(hydroxymethyl)-1,2,5,6-tetrahydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 8.67 mmol, 1.909 g | OC[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O | C11H12N2O3
reactant | triethylamine | 10.40 mmol, 1.450 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.54 mmol, 0.743 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | bicarbonate | 100 ml | C([O-])(O)=O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | [(2S)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl methanesulfonate | CS(=O)(=O)OC[C@@H]1CN2C(CCC=3C=CC(N1C23)=O)=O | C12H14N2O5S
